US08431695B2
Step 6: Preparation of tert-butyl 4-{4-amino-5-[3-amino-2-(2-fluorobenzyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidine-1-carboxylate
To a solution of tert-butyl 4-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)piperidine-1-carboxylate (0.5 g, 1.26 mmol) in DMF (15 mL) was added 2-(2-fluorobenzyl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazol-3-amine (0.695 g, 1.89 mmol), solid Na2CO3 (0.4 g, 3.79 mmol) and water (1.9 mL). The solution was degassed for 10 min and tetrakis(triphenylphosphine)palladium(0) (0.146 g, 0.126 mmol) was added and the mixture was degassed for another 10 min. The mixture was heated at 110° C. for 1 h 15 min and then cooled to rt. The mixture was filtered through a plug of Celite® and the filtrate was concentrated. The crude purified using an ISCO® instrument using 40-100% ethyl acetate in hexanes. LC-MS [M+H]+=557.2, RT=2.65 min.

reactant | tert-butyl 4-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)piperidine-1-carboxylate | 1.26 mmol, 0.5 g | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)OC(C)(C)C)Br | C16H22BrN5O2
reactant | 2-(2-fluorobenzyl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazol-3-amine | 1.89 mmol, 0.695 g | FC1=C(CN2N=C3C=C(C=CC3=C2N)B2OC(C(O2)(C)C)(C)C)C=CC=C1 | C20H23BFN3O2
reactant | Na2CO3 | 3.79 mmol, 0.4 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 1.9 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.126 mmol, 0.146 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-{4-amino-5-[3-amino-2-(2-fluorobenzyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidine-1-carboxylate | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)OC(C)(C)C)C=2C=CC1=C(N(N=C1C2)CC2=C(C=CC=C2)F)N | C30H33FN8O2
